US04602027
To a solution of methyl 5-methyl-2-(1-methylcyclohexyl)-4-oxazoleacetate (64.3 g) in ethanol (100 ml) was added 2N sodium hydroxide (170 ml). The mixture was stirred at room temperature for 30 minutes, diluted with water, adjusted to pH 2 with hydrochloric acid and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The magnesium sulfate was filtered off and morpholine (23 ml) was added. The resulting crystalline precipitate was collected by filtration to give 5-methyl-2-(1-methylcyclohexyl)-4-oxazoleacetic acid morpholine salt, yield 75.0 g. Recrystallization from acetone gave colorless needles melting at 109°-110° C. Yield 66.0 g.

reactant | methyl 5-methyl-2-(1-methylcyclohexyl)-4-oxazoleacetate | 64.3 g | CC1=C(N=C(O1)C1(CCCCC1)C)CC(=O)OC | C14H21NO3
reactant | sodium hydroxide | 2N, 170 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-methyl-2-(1-methylcyclohexyl)-4-oxazoleacetic acid morpholine salt | N1CCOCC1.CC1=C(N=C(O1)C1(CCCCC1)C)CC(=O)O | InChI=1S/C13H19NO3.C4H9NO/c1-9-10(8-11(15)16)14-12(17-9)13(2)6-4-3-5-7-13;1-3-6-4-2-5-1/h3-8H2,1-2H3,(H,15,16);5H,1-4H2
